US09387200B2
a) 4-Hydroxy-3-phenyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (180 mg, 0.47 mmol) in DMF (2.37 mL) was added 3-(tributylstannyl)pyridine (349 mg, 0.95 mmol) and PdCl2(PPh3)2 (33.3 mg, 0.047 mmol). The reaction mixture was stirred at 120° C. for 30 min. After cooling to r. t. the mixture was partitioned between water (150 mL) and EtOAc (150 mL). The organic layer was washed with brine, water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Elution with 0-20% EtOAc/CH2Cl2 gave the title compound as white solid (28 mg): MS (m/z) 378.1 (M+1).

reactant | 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.47 mmol, 180 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 3-(tributylstannyl)pyridine | 0.95 mmol, 349 mg | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
solvent | DMF | 2.37 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.047 mmol, 33.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-3-phenyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 28 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C=1C=NC=CC1)SN=C2C2=CC=CC=C2)O | C20H15N3O3S
